US08975400B2
3-(4-formyl-2-(trifluoromethyl)phenoxy)-5-(trifluoromethyl)benzonitrile
The title compound was prepared by a procedure similar to that described for D4 starting from 3-hydroxy-5-(trifluoromethyl)benzonitrile and 4-fluoro-3-(trifluoromethyl)benzaldehyde.

reactant | 3-hydroxy-5-(trifluoromethyl)benzonitrile | OC=1C=C(C#N)C=C(C1)C(F)(F)F | C8H4F3NO
reactant | 4-fluoro-3-(trifluoromethyl)benzaldehyde | FC1=C(C=C(C=O)C=C1)C(F)(F)F | C8H4F4O
product | 3-(4-formyl-2-(trifluoromethyl)phenoxy)-5-(trifluoromethyl)benzonitrile | C(=O)C1=CC(=C(OC=2C=C(C#N)C=C(C2)C(F)(F)F)C=C1)C(F)(F)F | C16H7F6NO2
